US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)ethyl]acetamide hydrochloride (Example 30)
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)ethyl]acetamide (141 mg, 0.35 mmol) was warmed gently in ethyl methyl ketone, and chlorotrimethylsilane (0.066 ml, 0.52 mmol) was added. After 1.5 h it was possible to filter off a beige-coloured, hygroscopic product with suction. The filtrate was reduced to a volume of 5 ml and ether was added. The hydrochloride thereby precipitated out as a colourless solid in a yield of 47% (72 mg). M.p.: 135-140° C.

reactant | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)ethyl]acetamide | 0.35 mmol, 141 mg | CN(C1(CCC(CC1)CC(=O)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C26H33N3O
reactant | chlorotrimethylsilane | 0.52 mmol, 0.066 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)ethyl]acetamide hydrochloride | yield of 47% | Cl.CN(C1(CCC(CC1)CC(=O)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | InChI=1S/C26H33N3O.ClH/c1-29(2)26(22-8-4-3-5-9-22)15-12-20(13-16-26)18-25(30)27-17-14-21-19-28-24-11-7-6-10-23(21)24;/h3-11,19-20,28H,12-18H2,1-2H3,(H,27,30);1H
